US08084644B2
N-phenylsulfonyl-3-phenylthioacrylamide (0.50 g) was suspended to toluene (10 ml), then thionyl chloride (0.20 ml), triethylamine (0.40 ml) and one drop of DMF were added thereto at room temperature. The mixture was stirred on the 60° C. oil bath for three hours. Then it was cooled and filtered off the insoluble matter. The filtrate was concentrated under reduced pressure. The residue was dissolved to DMF (8 ml). DMF (2 ml) solution of sodium salt of thiophenol (0.30 g) was added thereto under ice-cooling, and it was stirred at room temperature for 1.5 hours. Ethyl acetate (80 ml) was added to the reaction mixture, and it was successively washed with 1N aqueous sodium hydroxide solution, water and aqueous saturated sodium chloride solution, dried over anhydrous sodium sulfate, filtered off an inorganic salt, concentrated under reduced pressure. The residue was isolated and purified by silica gel column chromatography (hexane:ethyl acetate=10:1) to obtain phenyl N-phenylsulfonyl-3-(phenylthio)thioacrylimidate (0.14 g) as light yellow oil.

reactant | N-phenylsulfonyl-3-phenylthioacrylamide | 0.50 g | C1(=CC=CC=C1)S(=O)(=O)NC(C=CC1=CC=CC=C1)=S | C15H13NO2S2
reactant | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
reactant | thionyl chloride | 0.20 ml | S(=O)(Cl)Cl | Cl2OS
catalyst | DMF | one drop | CN(C)C=O | C3H7NO
solvent | triethylamine | 0.40 ml | C(C)N(CC)CC | C6H15N
product | phenyl N-phenylsulfonyl-3-(phenylthio)thioacrylimidate | 0.14 g | C1(=CC=CC=C1)S(=O)(=O)N=C(C=CSC1=CC=CC=C1)SC1=CC=CC=C1 | C21H17NO2S3
